US04816466
In 1.5 ml of acetic acid is dissolved 0.66 g of N-[N-[5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-L-proline tert-butyl ester, and 2 ml of 30% hydrogen bromide-acetic acid solution is added to the solution, followed by standing at room temperature for 1 hour. 50 ml of ethyl ether is added to the reaction solution, followed by shaking, and the precipitate is rinsed twice with 50 ml of ethyl ether. The resulting yellow, viscous material is dissolved in 5 ml of water, and the solution is extracted with 10 ml of ethyl acetate. The aqueous layer is lyophilized to give 0.4 g of N-[N-1-ethoxycarbonyl-5-(4-piperidyl)pentyl]-L-alanyl-L-proline.dihydrobromide.

reactant | N-[N-[5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-L-proline tert-butyl ester | 0.66 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NC(CCCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC)C)=O)=O | C33H51N3O7
reactant | hydrogen bromide acetic acid | 2 ml | Br.C(C)(=O)O
reactant | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | N-[N-1-ethoxycarbonyl-5-(4-piperidyl)pentyl]-L-alanyl-L-proline.dihydrobromide | 0.4 g | Br.Br.C(C)OC(=O)N1CCC(CC1)CCCCCN[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | InChI=1S/C21H37N3O5.2BrH/c1-3-29-21(28)23-14-10-17(11-15-23)8-5-4-6-12-22-16(2)19(25)24-13-7-9-18(24)20(26)27;;/h16-18,22H,3-15H2,1-2H3,(H,26,27);2*1H/t16-,18-;;/m0../s1
